US06140332
Step 12.3: 4-Chloro-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine
With the exclusion of moisture, 121 mg (0.50 mmol) of 6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol and 1 ml of phosphorus oxychloride are heated at boiling for 1.5 hours. The reaction mixture is poured into ice-water and extracted twice with ethyl acetate. The organic phases are washed three times with water and brine, dried with MgSO4 and concentrated by evaporation. Stirring of the residue in diethyl ether yields the title compound; m.p. 248-249OC; FAB-MS: (M+H)+ =260.

reactant | 6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol | 0.50 mmol, 121 mg | COC1=CC=C(C=C1)C1=CC2=C(N=CN=C2O)N1 | C13H11N3O2
reactant | phosphorus oxychloride | 1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)OC | C13H10ClN3O
